US07465731B2
To a stirred solution of 6-(2,3-dihydro-1H-inden-2-ylamino)nicotinaldehyde (160 mg) and malonic acid (84 mg) in pyridine (6 mL) was added piperidine (0.01 mL), and the mixture was stirred at 100° C. for 2 hours. The solvent was evaporated in vacuo and the resulting powder was collected by filtration to give (2E)-3-[6-(2,3-dihydro-1H-inden-2-ylamino)-3-pyridinyl]acrylic acid (190 mg) as a pale yellow powder.

reactant | 6-(2,3-dihydro-1H-inden-2-ylamino)nicotinaldehyde | 160 mg | C1C(CC2=CC=CC=C12)NC1=NC=C(C=O)C=C1 | C15H14N2O
reactant | malonic acid | 84 mg | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.01 mL | N1CCCCC1 | C5H11N
solvent | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
product | (2E)-3-[6-(2,3-dihydro-1H-inden-2-ylamino)-3-pyridinyl]acrylic acid | 190 mg | C1C(CC2=CC=CC=C12)NC1=CC=C(C=N1)/C=C/C(=O)O | C17H16N2O2
